US08975254B2
a) Ethyl imidazo[2,1-b]thiazole-6-carboxylate
To the cold solution of 2-aminothiazole (0.5 g, 4.99 mmol) in 10 mL of DME was added ethyl bromopyruvate (0.783 mL, 6.24 mmol). The resultant mixture was stirred at RT for 30 min. The yellow precipitate obtained was filtered. The solid residue was dissolved in 20 mL of ethanol and refluxed for 8 h. After the completion of the reaction as evidenced by LC-MS, the solvent was removed under vacuum. Residue was added to DCM and washed with sodium bicarbonate solution. The organic solvent was evaporated and the crude product was purified by Combiflash. Yield 0.285 g. 1H NMR (400 MHz; CDCl3): δ 1.42 (t, 3H), 4.41 (q, 2H), 6.98 (d, 1H), 7.47 (d, 1H), 8.09 (s, 1H).

reactant | 2-aminothiazole | 4.99 mmol, 0.5 g | NC=1SC=CN1 | C3H4N2S
reactant | ethyl bromopyruvate | 6.24 mmol, 0.783 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | DME | 10 mL | COCCOC | C4H10O2
product | Ethyl imidazo[2,1-b]thiazole-6-carboxylate | S1C=2N(C=C1)C=C(N2)C(=O)OCC | C8H8N2O2S
